US07265120B2
In the presence of palladium acetate (14.6 mg) and triphenylphosphine (34.0 mg), diisopropylethylamine (0.687 ml) was added to a mixture of 6-(5-amino-6-bromo-3-phenyl-2-pyrazinyl)-2-isopropyl-3(2H)-pyridazinone (501 mg) in DMF (2 ml) and the mixture was heated at 100-105° C. for 20 hours. After addition of water, a precipitate was collected by filtration and purified by column chromatography on silica gel eluting with a mixture of n-hexane and EtOAc (50:50 v/v) to give a solid. The solid was suspended in acetone and collected by filtration to give ethyl 3-[3-amino-6-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-5-phenyl-2-pyrazinyl]acrylate (95 mg).

reactant | triphenylphosphine | 34.0 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropylethylamine | 0.687 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 6-(5-amino-6-bromo-3-phenyl-2-pyrazinyl)-2-isopropyl-3(2H)-pyridazinone | 501 mg | NC=1N=C(C(=NC1Br)C=1C=CC(N(N1)C(C)C)=O)C1=CC=CC=C1 | C17H16BrN5O
reactant | water | O | H2O
reactant | acetone | CC(=O)C | C3H6O
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
catalyst | palladium acetate | 14.6 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | ethyl 3-[3-amino-6-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-5-phenyl-2-pyrazinyl]acrylate | 95 mg | NC=1C(=NC(=C(N1)C1=CC=CC=C1)C1=NN(C(C=C1)=O)C(C)C)C=CC(=O)OCC | C22H23N5O3
